Name:  ___.             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PLASTIC
 
Allergies: 
Hydrochlorothiazide
 
Attending: ___
 
Chief Complaint:
Carpal tunnel syndrome, cubital tunnel syndrome
 
Major Surgical or Invasive Procedure:
1. Open right carpal tunnel release.
2. Partial flexor tenosynovectomy.
3. Cubital tunnel release with anterior subcutaneous
    transposition.

 
History of Present Illness:
This patient is an octogenarian, who presents with bilateral 
compression neuropathies superimposed with a peripheral 
neuropathy.  Electrophysiologic studies had evidence was severe 
compression at all 4 levels clinically. He had both sensory and 
motor weakness in the moderate range. He also has superimposed 
neck problem related to neck dissection postoperative for 
radiation on the right side.  He is brought to the OR for right 
median nerve decompression.

 
Past Medical History:
HTN
MGUS
Cystic carcinoma of the R submandibular gland with resection and
XRT in ___
Prostate CA s/p TURP ___

 
Social History:
___
Family History:
Significant for cancer, heart disease, lung disease, neurologic 
disease, gastrointestinal disorders, and rheumatologic problems.

 
Pertinent Results:
___ 08:00PM   GLUCOSE-153* UREA N-16 CREAT-0.9 SODIUM-129* 
POTASSIUM-3.8 CHLORIDE-93* TOTAL CO2-27 ANION GAP-13
___ 08:00PM   estGFR-Using this
___ 08:00PM   CK(CPK)-125
___ 08:00PM   CK-MB-5 cTropnT-<0.01
___ 08:00PM   CALCIUM-9.0 PHOSPHATE-3.9 MAGNESIUM-1.7
___ 08:00PM   WBC-11.0# RBC-3.84* HGB-11.9* HCT-33.8* 
MCV-88 MCH-31.0 MCHC-35.2* RDW-13.4
___ 08:00PM   PLT COUNT-241
 
Brief Hospital Course:
The patient was admitted to the plastic surgery service on 
___ and had right carpal and cubital tunnel releases. The 
patient tolerated the procedure well. 
.
Neuro: Post-operatively, the patient received Morphine with good 
effect and adequate pain control. When tolerating oral intake, 
the patient was transitioned to oral pain medications. 
.
CV: The patient had a vaso-vagal event leaving the hospital and 
was admitted overnight for observation. The patient was stable 
from a cardiovascular standpoint; vital signs were routinely 
monitored.  Labs including troponins were unremarkable.
.
Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored.
.
GI/GU: Post-operatively, the patient was given IV fluids until 
tolerating oral intake. His diet was advanced when appropriate, 
which was tolerated well. He was also started on a bowel regimen 
to encourage bowel movement. Foley was removed on POD#1. Intake 
and output were closely monitored.  He voided multiple times 
following removal of the foley and is voiding at his baseline. 
.
ID: The patient's temperature was closely watched for signs of 
infection. 
.
Prophylaxis: The patient was out of bed and ambulatory quickly 
following the procedure. 
.
At the time of discharge on POD#1, the patient was doing well, 
afebrile with stable vital signs, tolerating a regular diet, 
ambulating, voiding without assistance, and pain was well 
controlled.

 
Medications on Admission:
Alprazolam 0.25 mg prn for anxiety
Amlodipine 5 mg daily
Atenolol 25 mg daily
Calcitonin 200 units two sprays daily
Gabapentin 300 mg four times a day
Lisinopril 40 mg daily
Omeprazole 20 mg daily
Aspirin 81 mg daily
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q8H:PRN pain 
Please do not take more than 4g of Tylenol in a 24 hour period. 
RX *acetaminophen 650 mg 1 tablet extended release(s) by mouth 
every eight (8) hours Disp #*30 Tablet Refills:*0
2. ALPRAZolam 0.125 mg PO TID:PRN anxiety 
3. Amlodipine 5 mg PO DAILY 
4. Atenolol 25 mg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*20 Capsule Refills:*0
6. Gabapentin 300 mg PO Q6H 
7. Lisinopril 40 mg PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain Duration: 
3 Days 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*12 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Carpal tunnel syndrome, cubital tunnel syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Followup Instructions:
___